US20010005753A1
1-(Chroman-6-yl)piperazine
A solution of 6-aminochroman from part 2 of this example (0.300 g, 2.013 mmol), bis-(2-choroethyl)amine hydrochloride (0.539 g, 3.020 mmol) and potassium carbonate (0.278 g, 2.013 mmol) in 10 mL chlorobenzene is heated at reflux for 24 h. The dark brown reaction mixture is then partitioned between 3N NaOH and methylene chloride. The organic layer is separated, dried over Mg2SO4, filtered and concentrated. Purification by flash column chromatography (5% methanol-methylene chloride) affords 0.157 g (36%) of 1-(chroman-6-yl)piperazine as a white solid, TLC Rf 0.35 (elution with 10% methanol-methylene chloride).

reactant | 6-aminochroman | NC=1C=C2CCCOC2=CC1 | C9H11NO
reactant | bis-(2-choroethyl)amine hydrochloride | 3.020 mmol, 0.539 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 2.013 mmol, 0.278 g | C([O-])([O-])=O.[K+].[K+]
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(Chroman-6-yl)piperazine | O1CCCC2=CC(=CC=C12)N1CCNCC1 | C13H18N2O
